US06180622B2
Iodomethane (1.2 ml) is added to 113.3 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate described in Example 23-a), and the mixture is stirred in an argon atmosphere in a light-shielded state at room temperature overnight. The excess reagent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 84.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a yellow viscous material.

reactant | Iodomethane | 1.2 ml | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 113.3 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 84.6 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C28H35N4O6S2.HI/c1-6-8-37-27(35)24-25(16(3)23-22(17(4)33)26(34)32(23)24)40-20-11-18(31(13-20)28(36)38-9-7-2)10-19-12-30-15-29(5)14-21(30)39-19;/h6-7,12,14-18,20,22-23,33H,1-2,8-11,13H2,3-5H3;1H/q+1;/p-1/t16-,17-,18-,20+,22-,23-;/m1./s1
